### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/Jordan) : Primitivity lemmas

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This is a primitivity lemma for actions, in preparation to the proof of of Jordan on primitive subgroups of the permutation group #26282

This PR continues the work from #24120.

Original PR: https://github.com/leanprover-community/mathlib4/pull/24120

- [x] depends on: #26279

### CODE REVIEW

**Comment by AntoineChambert-Loir** [comment]
## Comments from Original PR #24120

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-04-16 17:29 UTC](https://github.com/leanprover-community/mathlib4/pull/24120#issuecomment-2810244712)):
### PR summary [d6ae180a27](https://github.com/leanprover-community/mathlib4/pull/24120/commits/d6ae180a27790debe130c95c5efc7defd36e8294)

<details><summary>

#### Import changes for modified files

</summary>

Dependency changes

| File | Base Count | Head Count | Change |
| --- | --- | --- | --- |
| Mathlib.GroupTheory.GroupAction.MultipleTransitivity | 960 | 971 | +11 (+1.15%) |


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
| `Mathlib.GroupTheory.GroupAction.MultipleTransitivity`|11|
| `Mathlib.GroupTheory.GroupAction.SubMulAction.OfFixingSubgroup` (new file)|826|
| `Mathlib.GroupTheory.GroupAction.MultiplePrimitivity` (new file)|972|
| `Mathlib.GroupTheory.GroupAction.Jordan` (new file)|974|

</details>

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ IsMultiplyPreprimitive`
`+ IsMultiplyPreprimitive.of_bijective_map`
`+ IsPreprimitive.isPreprimitive_ofFixingSubgroup_inter`
`+ IsPretransitive.isPretransitive_ofFixingSubgroup_inter`
`+ _root_.AddAction.IsMultiplyPreprimitive`
`+ _root_.Set.conj_mem_fixingSubgroup`
`+ _root_.SubMulAction.add_encard_ofStabilizer_eq`
`+ conjMap_ofFixingSubgroup`
`+ conjMap_ofFixingSubgroup_bijective`
`+ conjMap_ofFixingSubgroup_coe_apply`
`+ eq_top_if_isMultiplyPretransitive`
`+ fixingSubgroupEquivFixingSubgroup`
`+ fixingSubgroupEquivFixingSubgroup_coe_apply`
`+ fixingSubgroupInsertEquiv`
`+ fixingSubgroup_map_conj_eq`
`+ fixingSubgroup_of_insert`
`+ fixingSubgroup_smul_eq_fixingSubgroup_map_conj`
`+ fixingSubgroup_union_to_fixingSubgroup_of_fixingSubgroup`
`+ instance (n : ℕ) [IsMultiplyPreprimitive M α n] :`
`+ instance : IsPretransitive (Perm α) α`
`+ instance {α : Type*} : IsPreprimitive (Equiv.Perm α) α := by`
`+ isMultiplyPreprimitive_congr`
`+ isMultiplyPreprimitive_jordan`
`+ isMultiplyPreprimitive_ofStabilizer`
`+ isMultiplyPreprimitive_of_isMultiplyPretransitive_succ`
`+ isMultiplyPreprimitive_of_le`
`+ isMultiplyPreprimitive_succ_iff_ofStabilizer`
`+ isMultiplyPretransitive'`
`+ isPreprimitive_fixingSubgroup_insert_iff`
`+ isPreprimitive_ofFixingSubgroup_conj_iff`
`+ is_one_preprimitive_iff`
`+ is_two_preprimitive_weak_jordan`
`+ is_two_pretransitive`
`+ is_two_pretransitive_weak_jordan`
`+ is_two_pretransitive_weak_jordan'`
`+ is_zero_preprimitive`
`+ map_ofFixingSubgroupUnion`
`+ map_ofFixingSubgroupUnion_bijective`
`+ map_ofFixingSubgroupUnion_def`
`+ mem_fixingSubgroup_insert_iff`
`+ mem_fixingSubgroup_union_iff`
`+ mem_ofFixingSubgroup_iff`
`+ mem_ofFixingSubgroup_insert_iff`
`+ ncard_lt`
`+ ncard_pigeonhole`
`+ ncard_pigeonhole'`
`+ ncard_pigeonhole_compl`
`+ normalClosure_of_stabilizer_eq_top`
`+ not_mem_of_mem_ofFixingSubgroup`
`+ ofFixingSubgroup`
`+ ofFixingSubgroup.append`
`+ ofFixingSubgroup.append_left`
`+ ofFixingSubgroup.append_right`
`+ ofFixingSubgroup.isMultiplyPreprimitive`
`+ ofFixingSubgroupEmpty_equivariantMap`
`+ ofFixingSubgroupEmpty_equivariantMap_bijective`
`+ ofFixingSubgroup_carrier`
`+ ofFixingSubgroup_insert_map`
`+ ofFixingSubgroup_insert_map_apply`
`+ ofFixingSubgroup_insert_map_bijective`
`+ ofFixingSubgroup_of_eq`
`+ ofFixingSubgroup_of_eq_apply`
`+ ofFixingSubgroup_of_eq_bijective`
`+ ofFixingSubgroup_of_inclusion`
`+ ofFixingSubgroup_of_inclusion_injective`
`+ ofFixingSubgroup_of_singleton`
`+ ofFixingSubgroup_of_singleton_bijective`
`+ of_fixingSubgroupEmpty_mapScalars_surjective`
`+ strong_jordan_of_preprimitive`
`+ strong_jordan_of_pretransitive`
`+ weak_jordan_of_preprimitive'`
`++ isMultiplyPretransitive`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

**Comment by tb65536** [comment]
Does this PR depend on #26279?

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 1]
```diff
@@ -284,6 +292,114 @@ end Higher
 
 end MulAction
 
+namespace Equiv.Perm
+
+variable {α : Type*} [Fintype α]
+
+-- Move?
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: This comment should be addressed, or removed.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 2]
```diff
@@ -284,6 +292,114 @@ end Higher
...
+/-- The permutation group of `α` acts transitively on `α`. -/
+instance : IsPretransitive (Perm α) α where
+  exists_smul_eq x y := by
+    classical
+    use Equiv.swap x y
+    simp only [Equiv.Perm.smul_def, Equiv.swap_apply_left x y]
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Can you unsqueeze?

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 3]
```diff
@@ -284,6 +292,114 @@ end Higher
...
+
+/-- The permutation group of `α` acts 2-pretransitively on `α`. -/
+theorem is_two_pretransitive (α : Type*) :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: I guess there already is an `α` in scope.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 4]
```diff
@@ -284,6 +292,114 @@ end Higher
...
+  use swap b (k⁻¹ • d)
+  refine ⟨?_, by simp⟩
+  apply Equiv.swap_apply_of_ne_of_ne hab
+  intro ha'
+  apply hcd
+  have hd : d = k • a := by simp [ha']
+  rw [hc, hd]
+
+/-- The action of the permutation group of `α` on `α` is preprimitive -/
+instance {α : Type*} : IsPreprimitive (Equiv.Perm α) α := by
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Same.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 5]
```diff
@@ -284,6 +292,114 @@ end Higher
...
+
+-- TODO : generalize when `α` is infinite. This simplifies a proof above
+variable (α) in
+/-- The permutation group of a finite type `α` acts `n`-pretransitively on `a`, for all `n`,
+for a trivial reason when `Nat.card α < n`. -/
+theorem isMultiplyPretransitive (n : ℕ) : IsMultiplyPretransitive (Perm  α) α n := by
+  by_cases hα : n ≤ Nat.card α
+  · suffices IsMultiplyPretransitive (Perm α) α (Nat.card α) by
+      apply isMultiplyPretransitive_of_le hα (le_rfl)
+    exact {
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Is there a lemma that allows to avoid the `exact {...}` syntax?

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 6]
```diff
@@ -284,6 +292,114 @@ end Higher
...
+        suffices h : Function.Bijective x ∧ Function.Bijective y by
+          use (Equiv.ofBijective x h.1).symm.trans (Equiv.ofBijective y h.2)
+          ext; simp
+        constructor
+        all_goals
+          simp only [Fintype.bijective_iff_injective_and_card, card_eq_fintype_card,
+            Fintype.card_fin, and_true, EmbeddingLike.injective] }
+  · suffices IsEmpty (Fin n ↪ α) by
+      infer_instance
+    exact {
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Same.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean [hunk 7]
```diff
@@ -284,6 +292,114 @@ end Higher
...
+      · rw [← hxj]
+        apply congr_arg
+        rw [Fin.ext_iff, hi, hj]
+  apply Equiv.Perm.ext; intro a
+  obtain ⟨i, rfl⟩ := (hx x) a
+  let zi := hgk i
+  simp only [Function.Embedding.smul_apply, Equiv.Perm.smul_def] at zi
+  simp only [Function.Embedding.toFun_eq_coe]
+  rw [← zi]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Is it possible to avoid the `rfl`?

File: Mathlib/GroupTheory/GroupAction/MultiplePrimitivity.lean [hunk 8]
```diff
@@ -52,8 +52,8 @@ theorem isPreprimitive_ofFixingSubgroup_conj_iff {s : Set α} {g : G} :
     IsPreprimitive (fixingSubgroup G s) (ofFixingSubgroup G s) ↔
       IsPreprimitive (fixingSubgroup G (g • s)) (ofFixingSubgroup G (g • s)) :=
   isPreprimitive_congr
-    (fixingSubgroupEquivFixingSubgroup G α rfl).surjective
-    (conjMap_ofFixingSubgroup_bijective G α rfl)
+    (fixingSubgroupEquivFixingSubgroup G rfl).surjective
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/GroupAction/MultiplePrimitivity.lean:55]: Is there a reason why the variables in this file are now explicit? It seemed to work fine.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: what do you mean with "unsqueeze"?

File: Mathlib/GroupTheory/GroupAction/MultiplePrimitivity.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultiplePrimitivity.lean:55]: A bad merge, certainly. When there are conflicts, it's hard for me to remember which option was the best one.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Do you believe this pretransivity should be proved here, or in a less specialized file?

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Replace `simp only` by `simp`.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: If it can go to a more basic file let's move it.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: I tagged docs#MulAction.IsPretransitive with mk_iff.

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: Yes. The point was to make it explicit. I can use (variable () in).

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: I used isEmpty_iff

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: yes, isMultiplyPretransitive_iff

File: Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultipleTransitivity.lean]: yes.

File: Mathlib/GroupTheory/GroupAction/MultiplePrimitivity.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/MultiplePrimitivity.lean:55]: But note : unless I'm mistaken, that's the opposite: the alpha variable is now implicit.

**Comment by AntoineChambert-Loir** [comment]
with the proof of multiple pretransitivity for an infinite permutation group, some proofs could be simplified.

File: Mathlib/Algebra/Group/Action/End.lean [hunk 9]
```diff
@@ -88,6 +88,14 @@ protected lemma smul_def {α : Type*} (f : Perm α) (a : α) : f • a = f a :=
 /-- `Equiv.Perm.applyMulAction` is faithful. -/
 instance applyFaithfulSMul (α : Type*) : FaithfulSMul (Perm α) α := ⟨Equiv.ext⟩
 
+/-- The permutation group of `α` acts transitively on `α`. -/
+instance : MulAction.IsPretransitive (Perm α) α := by
+  rw [MulAction.isPretransitive_iff]
+  classical
+  intro x y
+  use Equiv.swap x y
+  simp only [Perm.smul_def, swap_apply_left x y]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Group/Action/End.lean]:
```suggestion
  simp
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
